US09079919B2
(R)-7-(5-Chloropyridin-3-yl)-4,4,5′,5′-tetrafluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazin]-2′-amine
In a manner analogous to that described in Example 1, the cross-coupling reaction of (R)-7-bromo-4,4,5′,5′-tetrafluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazin]-2′-amine (intermediate A6.4) with 5-chloropyridin-3-ylboronic acid yielded the title compound (28% yield) as a white solid. MS (ISP): m/z=399.9 [M+H]+.

reactant | (R)-7-bromo-4,4,5′,5′-tetrafluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazin]-2′-amine | BrC1=CC=C2C(CC[C@@]3(N=C(OCC3(F)F)N)C2=C1)(F)F | C13H11BrF4N2O
reactant | 5-chloropyridin-3-ylboronic acid | ClC=1C=C(C=NC1)B(O)O | C5H5BClNO2
product | (R)-7-(5-Chloropyridin-3-yl)-4,4,5′,5′-tetrafluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazin]-2′-amine | 28% yield | ClC=1C=C(C=NC1)C1=CC=C2C(CC[C@@]3(N=C(OCC3(F)F)N)C2=C1)(F)F | C18H14ClF4N3O
